US06921763B2
Sodium hydride, 60% suspension in mineral oil (0.006 g, 0.15 mmol) was added into the solution of N2-{4-[4-amino-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-1H-2-indolecarboxamide (0.08 g, 0.14 mmol) in N,N-dimethylforamide (1.0 mL) at 0° C. The mixture was stirred at 0° C. for 10 minutes and at ambient temperature for 20 minutes. A solution of ethyl iodide (0.02 g, 0.14 mmol) in N,N-dimethylforamide (0.5 mL) was added in and the mixture was stirred at ambient temperature overnight. Ethyl iodide (0.01 g, 0.07 mmol) was added in and the mixture was stirred at ambient temperature overnight. Trifluoroacetic acid (3 mL) was added and the mixture was stirred at ambient temperature for 24 hours. The solvents and excess reagents were evaporated under reduced pressure and the residue was purified by preparative HPLC to yield 4-[4-amino-3-(4-{[(1-ethyl-1H-2-indolyl)carbonyl]amino}-3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]hexahydropyridinium acetate (0.05 g, 0.09 mmol) as a white solid: 1H NMR (DMSO-d6, 400 MHz) δ 9.43 (s, 1H), 8.27 (s, 1H), 8.14 (d, 1H), 7.71(d, 1H), 7.61 (d, 1H), 7.34 (s, 2H), 7.31 (t, 2H), 7.15 (t, 1H), 4.96 (m, 1H), 4.62 (q, 2H), 3.96 (s, 3H), 3.00 (m, 2H), 2.28 (m, 2H), 2.03 (m, 2H), 1.91 (s, 3H), 1.33 (t, 3H); MS: MH+ 511.

reactant | Sodium hydride | [H-].[Na+]
reactant | N2-{4-[4-amino-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-1H-2-indolecarboxamide | 0.14 mmol, 0.08 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)C=2NC1=CC=CC=C1C2)OC)C2CCNCC2 | C26H26N8O2
reactant | ethyl iodide | 0.14 mmol, 0.02 g | C(C)I | C2H5I
reactant | Ethyl iodide | 0.07 mmol, 0.01 g | C(C)I | C2H5I
reactant | Trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | N,N-dimethylforamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylforamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 4-[4-amino-3-(4-{[(1-ethyl-1H-2-indolyl)carbonyl]amino}-3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]hexahydropyridinium acetate | 0.09 mmol, 0.05 g | C(C)(=O)[O-].NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)CC)OC)C2CC[NH2+]CC2 | InChI=1S/C28H30N8O2.C2H4O2/c1-3-35-21-7-5-4-6-17(21)14-22(35)28(37)33-20-9-8-18(15-23(20)38-2)25-24-26(29)31-16-32-27(24)36(34-25)19-10-12-30-13-11-19;1-2(3)4/h4-9,14-16,19,30H,3,10-13H2,1-2H3,(H,33,37)(H2,29,31,32);1H3,(H,3,4)
